US04115385
6-(2-carbamoyl-2-phenylacetamido)-2,2-dimethyl-3-(5-tetrazolyl)penam
To a stirred solution of 523 mg. (0.001 mole) of 6-(2-[p-nitrophenoxycarbonyl]-2-phenylacetamido)-2,2-dimethyl-3-(5-tetrazolyl)penam and 101 mg of triethylamine in 50 ml. of chloroform is added 1 ml of a 1M solution of ammonia in methanol, at -30° C. Stirring is continued for 4 hours without external cooling and then evaporation in vacuo leaves the crude product as its triethylamine salt.

reactant | 6-(2-[p-nitrophenoxycarbonyl]-2-phenylacetamido)-2,2-dimethyl-3-(5-tetrazolyl)penam | 0.001 mole | [N+](=O)([O-])C1=CC=C(OC(=O)C(C(=O)NC2[C@@H]3N(C(C(S3)(C)C)C3=NN=NN3)C2=O)C2=CC=CC=C2)C=C1 | C23H21N7O6S
reactant | triethylamine | 101 mg | C(C)N(CC)CC | C6H15N
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
reactant | ammonia | N | H3N
solvent | methanol | CO | CH4O
product | 6-(2-carbamoyl-2-phenylacetamido)-2,2-dimethyl-3-(5-tetrazolyl)penam | C(N)(=O)C(C(=O)NC1[C@@H]2N(C(C(S2)(C)C)C2=NN=NN2)C1=O)C1=CC=CC=C1 | C17H19N7O3S
